US08044052B2
tert-Butyl 4-(4-chloro-3-(5-(trifluoromethyl)pyridin-2-yloxy)benzylidene)piperidine-1-carboxylate
To a solution of 4-chloro-3-(5-(trifluoromethyl)pyridin-2-yloxy)phenylboronic acid (2.8 g, 8.82 mmol) and tert-butyl 4-(bromomethylene)piperidine-1-carboxylate (2.02 g, 7.32 mmol) in THF (10 mL) was added K3PO4 (4.7 g, 26.63 mmol). The air inside the flask was removed under vacuum and flushed with N2 three times. Water (0.56 mL) was added and the system was flushed with N2 again. PdCl2(dppf) (720.3 mg, 0.882 mmol) was added and the system was flushed with N2 two to three times again. The reaction mixture was refluxed at 50° C. for 1 h. The reaction mixture was concentrated, diluted with water and extracted with EtOAc. The organic extract was washed with brine, dried over Na2SO4, and concentrated under reduced pressure. The residue was purified by column chromatography (2.5% EtOAc-97.5% Hexane) to give the pure title compound (280 mg). 1H NMR (500 MHz, CDCl3): δ 8.43 (s, 1H), 7.97 (d, J=8.65 Hz, 1H), 7.70 (d, J=1.9 Hz, 1H), 7.55 (d, J=8.35 Hz, 1H), 7.32 (d, J=8.35 Hz, 1H), 7.16 (d, J=8.7 Hz, 1H), 5.99 (s, 1H), 3.44 (m, 4H), 2.39 (m, 2H), 2.24 (m, 2H), 1.47 (s, 9H).

reactant | 4-chloro-3-(5-(trifluoromethyl)pyridin-2-yloxy)phenylboronic acid | 8.82 mmol, 2.8 g | ClC1=C(C=C(C=C1)B(O)O)OC1=NC=C(C=C1)C(F)(F)F | C12H8BClF3NO3
reactant | tert-butyl 4-(bromomethylene)piperidine-1-carboxylate | 7.32 mmol, 2.02 g | BrC=C1CCN(CC1)C(=O)OC(C)(C)C | C11H18BrNO2
reactant | K3PO4 | 26.63 mmol, 4.7 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(dppf) | 0.882 mmol, 720.3 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-Butyl 4-(4-chloro-3-(5-(trifluoromethyl)pyridin-2-yloxy)benzylidene)piperidine-1-carboxylate | 280 mg | ClC1=C(C=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=C1)OC1=NC=C(C=C1)C(F)(F)F | C23H24ClF3N2O3
